US08492582B2
Under ice-cooling, trifluoroacetic acid (1.0 mL) was added to a methylene chloride (2.0 mL) solution of the obtained tert-butyl 2-(2-(methoxymethoxy)-5-((piperidin-1-yl)methyl)benzamido)-4-phenylbenzoate (0.080 g), followed by stirring at room temperature for 3 hours. The solvent was evaporated under reduced pressure, and ethyl acetate was added to the obtained residue. The solid substance was collected by filtration. Ethyl acetate (1.0 mL) and a 4.0 mol/L hydrogen chloride-dioxane solution (0.20 mL) were added to the obtained solid substance, followed by stirring at room temperature for 3 hours. The solid substance was collected from the reaction mixture by filtration to obtain 0.020 g of 2-(2-hydroxy-5-((piperidin-1-yl)methyl)benzamido)-4-phenylbenzoic acid hydrochloride as a white solid.

reactant | trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 2-(2-(methoxymethoxy)-5-((piperidin-1-yl)methyl)benzamido)-4-phenylbenzoate | 0.080 g | COCOC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)CN1CCCCC1 | C32H38N2O5
reactant | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-hydroxy-5-((piperidin-1-yl)methyl)benzamido)-4-phenylbenzoic acid hydrochloride | 0.020 g | Cl.OC1=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)CN1CCCCC1 | InChI=1S/C26H26N2O4.ClH/c29-24-12-9-18(17-28-13-5-2-6-14-28)15-22(24)25(30)27-23-16-20(10-11-21(23)26(31)32)19-7-3-1-4-8-19;/h1,3-4,7-12,15-16,29H,2,5-6,13-14,17H2,(H,27,30)(H,31,32);1H
